US03997552
A mixture of 20.5 g (0.1 mol) of 2,2,4,5-tetrachloro-2H-imidazole, 41 g (0.5 mol) of anhydrous copper-(I) cyanide and 230 ml of anhydrous xylene was heated for about 30 hours at 110° - 120° C. After cooling, the reaction mixture was filtered and the brown residue was repeatedly washed with ether. The combined solutions were shaken with active charcoal and the resulting coloured solution was concentrated in vacuo. The concentrated solution was taken up in n-hexane and the product crystallised out. It was filtered off and recrystallised from n-hexane, giving 7.9 g (40% of theory) of 4-cyano-2,2,5-trichloroimidazole (melting point 114° - 115° C).

reactant | 2,2,4,5-tetrachloro-2H-imidazole | 0.1 mol, 20.5 g | ClC1(N=C(C(=N1)Cl)Cl)Cl | C3Cl4N2
reactant | copper-(I) cyanide | 0.5 mol, 41 g | [Cu]C#N
solvent | xylene | 230 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-cyano-2,2,5-trichloroimidazole | 7.9 g, 40% | C(#N)C1=NC(N=C1Cl)(Cl)Cl | C4Cl3N3
